US06933304B2
An oven dried Fisher-Porter bottle was charged with 3-chloro-2-methyl propene (15.7 g, 173. 4 mmol), potassium carbonate (13.0 g, 93.5 mmol), and ethanol (13.0 mL). The bottle was capped with a pressure head and the system was degassed on the vacuum line. The bottle was opened under an atmosphere of nitrogen and Pd(OAc)2 (0.6 g, 2.67 mmol) was added. The system was capped and evacuated. The system was pressurized with carbon monoxide to 30 psi and the reactants were stirred at 10° C. After 30 minutes, the reaction mixture was stirred at room temperature for 2.5 hours. The system was then opened. The reaction mixture was diluted with ether (100 mL), and filtered. The yellow colored filtrate was concentrated under reduced pressure and the residue was purified by silica gel flash chromatography using 10% EtOAc in hexane to afford ethyl-3-methyl-3-butenoate (9.0 g) as a yellow liquid. 1H-NMR and mass spectral data were consistent with the structure. Step 2

reactant | 3-chloro-2-methyl propene | 4 mmol, 15.7 g | ClCC(=C)C | C4H7Cl
reactant | potassium carbonate | 93.5 mmol, 13.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 13.0 mL | C(C)O | C2H6O
catalyst | Pd(OAc)2 | 2.67 mmol, 0.6 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | ethyl-3-methyl-3-butenoate | 9.0 g | C(C)OC(CC(=C)C)=O | C7H12O2
